US04588812
To a stirred mixture of (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid (10.5 g, 1.9 mmols) and benzylamine (0.23 g, 2.1 mmols) in 25 ml dimethylformamide at 0° C., was added diethylphosphoryl cyanide (0.28 g, 2.1 mmols) (in dimethylformamide solution), followed by triethylamine (0.41 g, 4.0 mmols). The reaction mixture was stirred for 4 hours at 0° C. and then, at room temperature overnight. The reaction mixture was diluted with benzene-ethyl acetate and washed sequentially with 5% hydrochloric acid, water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic solution was dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure to give N-Benzyl-(3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetamide which was recrystallized from ethyl acetate. Yield--0.09 g. Mp 258°-259° C.

reactant | (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid | 1.9 mmols, 10.5 g | O=C1C(SC2=NC3=CC=CC=C3CN21)=CC(=O)O | C12H8N2O3S
reactant | benzylamine | 2.1 mmols, 0.23 g | C(C1=CC=CC=C1)N | C7H9N
reactant | diethylphosphoryl cyanide | 2.1 mmols, 0.28 g | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 4.0 mmols, 0.41 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | benzene ethyl acetate | C1=CC=CC=C1.C(C)(=O)OCC
product | N-Benzyl-(3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetamide | C(C1=CC=CC=C1)NC(C=C1C(N2C(=NC3=CC=CC=C3C2)S1)=O)=O | C19H15N3O2S
